US08859549B2
4-(tert-butylthio)phthalazin-1(2H)-one
A mixture of 4-chlorophthalazin-1(2H)-one (200 mg, 1.11 mmol), sodium 2-methylpropane-2-thiolate (248 mg, 2.22 mmol), tris(trifluoromethylsulfonyloxy)scandium (54.5 mg, 0.11 mmol) and K2CO3 (308 mg, 2.22 mmol) was heated at 160° C. under microwave condition for 30 minutes. The mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3, dried (Na2SO4), filtered, and chromatographed (0-30% EtOAc/DCM) to give 52 mg (20%) of the title compound as a white solid: MS (DCI) 235 (M+H).

reactant | 4-chlorophthalazin-1(2H)-one | 1.11 mmol, 200 mg | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | sodium 2-methylpropane-2-thiolate | 2.22 mmol, 248 mg | CC(C)(C)[S-].[Na+]
reactant | K2CO3 | 2.22 mmol, 308 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(trifluoromethylsulfonyloxy)scandium | 0.11 mmol, 54.5 mg | FC(S(=O)(=O)O[Sc](OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)(F)F
product | 4-(tert-butylthio)phthalazin-1(2H)-one | 52 mg, 20% | C(C)(C)(C)SC1=NNC(C2=CC=CC=C12)=O | C12H14N2OS
